US07625908B2
N-{(2S)-2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]propyl}-N-methyl-2-(methylsulfonyl)acetamide
The procedure described in Example 1 was repeated using methanesulfonylacetic acid and N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-[(1S)-1-methyl-2-(methylamino)ethoxy]quinazolin-4-amine (obtained as described for the R-antipode in Example 2.3, preparation of starting materials) to give the title compound in 61% yield; NMR spectrum (DMSO-d6) 1.38 (d, 3H), 2.95 (s, 3H), 3.15 (s, 3H), 3.37 (dd, 1H), 4.30 (m, 1H), 4.41 (d, 2H), 5.11 (m, 1H), 5.29 (s, 2H), 7.24 (m, 2H), 7.30 (d, 1H), 7.35 (m, 1H), 7.57 (d, 1H), 7.64 (dd, 1H), 7.70 (t, 1H), 7.86 (dt, 1H), 8.11 (d, 1H), 8.45 (s, 1H), 8.58 (d, 1H), 9.88 (s, 1H); Mass Spectrum MH+ 570.

reactant | methanesulfonylacetic acid | CS(=O)(=O)CC(=O)O | C3H6O4S
reactant | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-[(1S)-1-methyl-2-(methylamino)ethoxy]quinazolin-4-amine | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)O[C@H](CNC)C | C24H24ClN5O2
product | N-{(2S)-2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]propyl}-N-methyl-2-(methylsulfonyl)acetamide | 61% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)O[C@H](CN(C(CS(=O)(=O)C)=O)C)C | C27H28ClN5O5S
